US06239131B1
Preparation of 1-(2,2-diethoxyethyl)-2-oxo-3-benzyloxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
Step 2 of Example 1 was repeated except that 2-oxo-3-benzyloxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine was used instead of 2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine, and that bromoacetaldehyde diethylacetal was used instead of 2-bromo-2′-methylacetophenone, to thereby obtain the title compound.

reactant | 2-oxo-3-benzyloxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | O=C1C(CN(C2=C(N1)C=CC=C2)C(C(C)(C)C)=O)NC(=O)OCC2=CC=CC=C2 | C22H25N3O4
reactant | bromoacetaldehyde diethylacetal | C(C)OC(CBr)OCC | C6H13BrO2
product | 1-(2,2-diethoxyethyl)-2-oxo-3-benzyloxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | C(C)OC(CN1C(C(CN(C2=C1C=CC=C2)C(C(C)(C)C)=O)NC(=O)OCC2=CC=CC=C2)=O)OCC | C28H37N3O6
